US06756231B1
The aforementioned 3,6-bis(dimethylamino)-9-(2-acetoxymethoxycarbonyl-3-amino-4-nitrophenyl)xanthylium bromide (443 mg) was dissolved in a mixed solvent of ethanol (100 ml) and dichloromethane (100 ml), and the solution was added with 0.25 g of 10% Pd/C catalyst. The mixture was stirred at room temperature under a hydrogen atmosphere for 2 hours. The reaction mixture was filtered, and the solvent was evaporated. The residue was purified by silica gel column chromatography to obtain 3,6-bis(dimethylamino)-9-(2-acetoxymethoxycarbonyl-3,4-diaminophenyl)xanthylium bromide (214 mg, 50.9%).

reactant | 3,6-bis(dimethylamino)-9-(2-acetoxymethoxycarbonyl-3-amino-4-nitrophenyl)xanthylium bromide | 443 mg | [Br-].CN(C=1C=CC2=C(C3=CC=C(C=C3[O+]=C2C1)N(C)C)C1=C(C(=C(C=C1)[N+](=O)[O-])N)C(=O)OCOC(C)=O)C
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
catalyst | Pd/C | 0.25 g | [Pd] | Pd
product | 3,6-bis(dimethylamino)-9-(2-acetoxymethoxycarbonyl-3,4-diaminophenyl)xanthylium bromide | 214 mg, 50.9% | [Br-].CN(C=1C=CC2=C(C3=CC=C(C=C3[O+]=C2C1)N(C)C)C1=C(C(=C(C=C1)N)N)C(=O)OCOC(C)=O)C | InChI=1S/C27H28N4O5.BrH/c1-15(32)34-14-35-27(33)25-20(10-11-21(28)26(25)29)24-18-8-6-16(30(2)3)12-22(18)36-23-13-17(31(4)5)7-9-19(23)24;/h6-13H,14,28H2,1-5H3,(H-,29,33);1H
